US04218370
B. Preparation of Allyl 4-t-Amylazo-4-chlorovalerate
To a 1 liter 3-neck round bottom flask, equipped with a mechanical stirrer, thermometer, chlorine inlet tube and condenser was added 96.0 grams (0.4 mole) of allyl levulinate t-amylhydrazone, 400 mls of pentane and 41.5 grams of triethylamine. The resulting solution was cooled to 5° C. and and with stirring 28.4 grams (0.4 mole) of chlorine was slowly added over 30 minutes, holding the temperature at 5° to 15° C. After the addition was complete the mixture was stirred for 10 minutes at 10° C. before adding 164 grams of 10% NaOH to neutralize the triethylamine hydrochloride that had formed. The mixture was stirred until the hydrochloride dissolved and then the aqueous layer was separated. The pentane layer was washed with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate, filtered and the pentane and triethylamine stripped off on a rotary evaporator under reduced pressure. The residue was a yellow liquid weighing 109 grams (99% crude yield). The product was used as an intermediate in preparing the following azo compounds.

reactant | allyl levulinate t-amylhydrazone | 0.4 mole, 96.0 grams | C(C)(C)(CC)NN=C(CCC(=O)OCC=C)C | C13H24N2O2
reactant | chlorine | 0.4 mole, 28.4 grams | ClCl | Cl2
reactant | NaOH | 164 grams | [OH-].[Na+]
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | hydrochloride | Cl | ClH
solvent | triethylamine | 41.5 grams | C(C)N(CC)CC | C6H15N
solvent | pentane | 400 mls | CCCCC | C5H12
product | Allyl 4-t-Amylazo-4-chlorovalerate | C(C)(C)(CC)N=NC(CCC(=O)OCC=C)(C)Cl | C13H23ClN2O2
